US04261995
A solution consisting of 25 g of m-anisaldehyde, 47 g of cyanoacetic acid and 3 ml of piperidine in 120 ml of pyridine is placed in a suitable reaction vessel and kept in a 110° oil-bath for 22 hours. Most of the solvent is removed under reduced pressure and the remaining oil is dissolved in about 400 ml of toluene. The solution is washed sequentially with equal volumes of water, 10% hydrochloric acid and saturated sodium bicarbonate. The washed solution is then concentrated under vacuum and the residue is distilled to give 20.7 g of 3-(3-methoxyphenyl)glutaronitrile, bp 146°-153° at 0.01 mm.

reactant | m-anisaldehyde | 25 g | C(C1=CC(=CC=C1)OC)=O | C8H8O2
reactant | cyanoacetic acid | 47 g | C(#N)CC(=O)O | C3H3NO2
reactant | piperidine | 3 ml | N1CCCCC1 | C5H11N
solvent | pyridine | 120 ml | N1=CC=CC=C1 | C5H5N
product | 3-(3-methoxyphenyl)glutaronitrile | 20.7 g | COC=1C=C(C=CC1)C(CC#N)CC#N | C12H12N2O
